US05340936
a. 3-(6-Fluoro-1H-indazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane
A mixture of (2,4-difluorophenyl)(8-methyl-8-azabicyclo-[3.2.1]octan-3-yl)methanone (25.5 g), hydrazine hydrate (21 g) and ethanol (250 ml) was heated at reflux for 16 hours. The reaction mixture was concentrated to an oil on the rotary evaporator. The residue was dissolved in DMF (350 ml) and potassium carbonate (25 g) was added to the mixture which was refluxed for 16 hours. The mixture was cooled, filtered and stripped down in vacuo. The residue was dissolved in hot ethanol to yield 4.96 g of a solid. Recrystallization from ethanol gave 3.88 g of crystals, m.p. 235°-236° C.

reactant | (2,4-difluorophenyl)(8-methyl-8-azabicyclo-[3.2.1]octan-3-yl)methanone | 25.5 g | FC1=C(C=CC(=C1)F)C(=O)C1CC2CCC(C1)N2C | C15H17F2NO
reactant | hydrazine hydrate | 21 g | O.NN
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(6-Fluoro-1H-indazol-3-yl)-8-methyl-8-azabicyclo[3.2.1]octane | 4.96 g | FC1=CC=C2C(=NNC2=C1)C1CC2CCC(C1)N2C | C15H18FN3
